US09062034B2
(b) 2-[(5-chloro-thiophene-2-carbonyl)-amino]-3-methoxy-2-methoxymethyl-propionic acid
0.20 g (0.49 mmol) 5-chloro-thiophene-2-carboxylic acid(1-hydroxymethyl-2-methoxy-1-methoxymethyl-ethyl)-amide are dissolved at room temperature in 3 ml of water/3 ml acetonitrile and combined with 0.08 g (0.51 mmol) 2,2,6,6-tetramethyl-1-piperidinyloxy radical (TEMPO) and 0.13 g (1.55 mmol) sodium hydrogen carbonate. Then 1.5 ml (3.14 mmol) of 13% sodium hypochlorite is added dropwise and the mixture is stirred for 2 h. The reaction mixture is concentrated by evaporation i.vac. And purified by chromatography through RP material (Microsorb C18 Varian; eluant: water/acetonitrile/trifluoroacetic acid=90:10:0.1=>0:100:0.1).

reactant | 5-chloro-thiophene-2-carboxylic acid(1-hydroxymethyl-2-methoxy-1-methoxymethyl-ethyl)-amide | 0.49 mmol, 0.20 g | OCC(COC)(COC)NC(=O)C=1SC(=CC1)Cl | C11H16ClNO4S
reactant | sodium hydrogen carbonate | 1.55 mmol, 0.13 g | C(O)([O-])=O.[Na+]
reactant | sodium hypochlorite | 3.14 mmol, 1.5 ml | Cl[O-].[Na+]
solvent | water | 3 ml | O | H2O
product | 2-[(5-chloro-thiophene-2-carbonyl)-amino]-3-methoxy-2-methoxymethyl-propionic acid | ClC1=CC=C(S1)C(=O)NC(C(=O)O)(COC)COC | C11H14ClNO5S
